US08314240B2
3.30 g of 6-(methoxymethoxy)indan-5-amine was dissolved in 33.0 mL of pyridine and 157 mL of a 0.54 M 4-methyl-1,3-thiazole-2-sulfonylchloride/tert-butyl methyl ether solution was added thereto, followed by stirring overnight at room temperature. The reaction liquid was concentrated under reduced pressure, to the residue were added water and ethyl acetate, and the insoluble materials were removed by filtration. After the filtrate was extracted with ethyl acetate, the organic layer was washed with water and saturated brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=73:27 to 60:40) to obtain 4.79 g of N-[6-(methoxymethoxy)-2,3-dihydro-1H-inden-5-yl]-4-methyl-1,3-thiazole-2-sulfonamide.

reactant | 6-(methoxymethoxy)indan-5-amine | 3.30 g | COCOC1=C(C=C2CCCC2=C1)N | C11H15NO2
reactant | 4-methyl-1,3-thiazole-2-sulfonylchloride tert-butyl methyl ether | 0.54 M | CC=1N=C(SC1)S(=O)(=O)Cl.COC(C)(C)C
solvent | pyridine | 33.0 mL | N1=CC=CC=C1 | C5H5N
product | N-[6-(methoxymethoxy)-2,3-dihydro-1H-inden-5-yl]-4-methyl-1,3-thiazole-2-sulfonamide | 4.79 g | COCOC1=C(C=C2CCCC2=C1)NS(=O)(=O)C=1SC=C(N1)C | C15H18N2O4S2
